US05262390
A 1M methylene chloride solution of boron tribromide (41.6 ml, 0.0416 mole) was cooled to -20° C. While this temperature was maintained, a solution of 5.55 g (0.0208 mole) of 1-(1-methylethyl)-3-(2-fluoro-4-methoxyphenyl)imidazolidin-2,4-dione in 25 mL of methylene chloride was added to the reaction during an eight minute period. The reaction mixture was allowed to warm to room temperature, where it was stirred for approximately 17 hours. At the end of this time the reaction was poured over ice, and the resulting two-phase mixture was filtered. The organic phase was separated, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure, leaving a black solid as a residue. This solid was recrystallized from ethyl acetate/petroleum ether, to yield 3.25 g of 1-(1-methylethyl)-3-(2-fluoro-4-hydroxyphenyl)imidazolidin-2,4-dione as a tan solid, m.p. 190°-192° C. The NMR and IR spectra were consistent with the proposed structure.

reactant | boron tribromide | 0.0416 mole, 41.6 ml | B(Br)(Br)Br | BBr3
reactant | 1-(1-methylethyl)-3-(2-fluoro-4-methoxyphenyl)imidazolidin-2,4-dione | 0.0208 mole, 5.55 g | CC(C)N1C(N(C(C1)=O)C1=C(C=C(C=C1)OC)F)=O | C13H15FN2O3
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1M | C(Cl)Cl | CH2Cl2
product | 1-(1-methylethyl)-3-(2-fluoro-4-hydroxyphenyl)imidazolidin-2,4-dione | 3.25 g | CC(C)N1C(N(C(C1)=O)C1=C(C=C(C=C1)O)F)=O | C12H13FN2O3
